US05236952
100 g of guaiacol are dissolved in 136.4 g of butyric anhydride, treated with 120 g of zinc chloride, heated for 3 minutes as given in Example 6.a and then worked-up as described there. The crude product obtained after high vacuum distillation is chromatographed with toluene on 600 g of silica gel. After recrystallization from ether/n-hexane there is obtained 4'-hydroxy-3'-methoxy-butyrophenone in the form of colorless crystals of m.p. 40°-41°.

reactant | guaiacol | 100 g | C=1(C(O)=CC=CC1)OC | C7H8O2
solvent | butyric anhydride | 136.4 g | C(CCC)(=O)OC(CCC)=O | C8H14O3
catalyst | zinc chloride | 120 g | [Cl-].[Zn+2].[Cl-]
product | 4'-hydroxy-3'-methoxy-butyrophenone | OC1=C(C=C(C=C1)C(CCC)=O)OC | C11H14O3
